* Circuit for InductEx extraction (excluding resistors)
* Author: L. Schindler
* Version: 2.1
* Last modification date: 2 June 2021
* Last modification by: L. Schindler

.control
	back-annotate LSmitll_DCSFQ_v2p1_base.cir
.endc

* Inductors
L1 a 1 [L1]
L2 1 0 3.9p [L2]
L3 1 2 0.6p [L3]
L4 3 5 1.1p [L4]
L5 5 7 4.5p [L5]
L6 7 q [L6]
LP2 6 0 [LP2]
LP3 8 0 [LP3]
LB1 3 4 [LB1]
LB2 7 9 [LB2]

* Ports
P1 a 0
P2 q 0
PB1 4 0
PB2 9 0
J1 2 3 225u
J2 5 6 225u
J3 7 8 250u
